US04713383
Concentrated aqueous ammonium hydroxide (50 ml) in a stainless steel pressure vessel is saturated with gaseous ammonia at 0° and 5,9-dichloro-2-(2-tetrahydrofuryl)[1,2,4]triazolo[1,5-c]-quinazoline (1.22 g) added. The mixture is heated over six hours at an outside temperature of 150°, cooled and filtered. The precipitate is washed with water and dried under high vacuum to afford pure 9-chloro-5-imino-2-(2-tetrahydrofuryl)-5,6-dihydro-[1,2,4]triazolo[1,5-c]-quinazoline (0.45 g), mp 203°-206°. The starting material is prepared as follows:

reactant | ammonia | N | H3N
reactant | 5,9-dichloro-2-(2-tetrahydrofuryl)[1,2,4]triazolo[1,5-c]-quinazoline | 1.22 g | ClC1=NC=2C=CC(=CC2C=2N1N=C(N2)C2OCCC2)Cl | C13H10Cl2N4O
solvent | ammonium hydroxide | 50 ml | [OH-].[NH4+]
product | 9-chloro-5-imino-2-(2-tetrahydrofuryl)-5,6-dihydro-[1,2,4]triazolo[1,5-c]-quinazoline | 0.45 g | ClC1=CC=2C=3N(C(NC2C=C1)=N)N=C(N3)C3OCCC3 | C13H12ClN5O
